US07723367B2
2-Pyrrolidin-1-yl-6-trifluoromethyl-nicotinonitrile
Prepared in 67% yield from 2-chloro-6-trifluoromethyl-nicotinonitrile and pyrrolidine according to the procedure described for Example 178A. MS (ESI+) m/z 242.9 (M+H)+; 1H NMR (DMSO-d6) δ 1.92-1.97 (m, 4H), 3.67-3.72 (m, 4H), 7.07 (d, J=7.8 Hz, 1H), 8.22 (d, J=7.8 Hz, 1H).

reactant | 2-chloro-6-trifluoromethyl-nicotinonitrile | ClC1=C(C#N)C=CC(=N1)C(F)(F)F | C7H2ClF3N2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-Pyrrolidin-1-yl-6-trifluoromethyl-nicotinonitrile | 67% yield | N1(CCCC1)C1=C(C#N)C=CC(=N1)C(F)(F)F | C11H10F3N3
